US04788206
A mixture of 3,3-bis(3,4-dimethoxyphenyl)-2-propenal (19.6 g) and (carbomethoxymethylene)triphenylphosphorane (22 g) in benzene (150 mL) was stirred overnight at 55° C. The solvent was removed under reduced pressure and the residue (45 g), consisting of mainly triphenylphosphine oxide and (E)-5,5-bis(3,4-dimethoxyphenyl)-2,4-pentadienoic acid methyl ester, was taken up a mixture of methanol (100 mL) and 2N sodium hydroxide solution (50 mL) and heated at reflux for 30 minutes. After the methanol was removed in vacuo, the concentrate was diluted water (100 mL) and the precipitated triphenylphosphine oxide was filtered off. The basic filtrate was first extracted with ether to remove neutral impurities. then was poured into 1N hydrochloric acid (300 mL) and extracted with dichloromethane (3×150 mL). The dried (MgSO4) extracts were evaporated and the residue triturated with ether to give 18.7 g of (E)-5,5-bis(3,4-dimethoxyphenyl)-2,4-pentadienoic acid mp 174°-175.5° C. Crystallization from dichloromethane-2-propanol furnished the analytical sample, mp 174°-175.5° C.

reactant | 3,3-bis(3,4-dimethoxyphenyl)-2-propenal | 19.6 g | COC=1C=C(C=CC1OC)C(=CC=O)C1=CC(=C(C=C1)OC)OC | C19H20O5
reactant | (carbomethoxymethylene)triphenylphosphorane | 22 g | C(=O)(OC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
reactant | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | (E)-5,5-bis(3,4-dimethoxyphenyl)-2,4-pentadienoic acid | 18.7 g | COC=1C=C(C=CC1OC)C(=C/C=C/C(=O)O)C1=CC(=C(C=C1)OC)OC | C21H22O6
